US03969402
A solution of 2-(4'-fluoro-2-methoxy-4-biphenylyl)propionic acid (10 g.) in a mixture of hydrobromic acid (270 ml. of 48%w/v aqueous acid) and glacial acetic acid (90 ml.) was refluxed for 3.5 hours. The resulting solution was poured onto crushed ice, causing the precipitation of a solid product. This product was collected by filtration, washed with water, dried and recrystallised from chloroform/light petroleum (b.p. 62° - 68°C.) to give 2-(4'-fluoro-2-hydroxy-4-biphenylyl)propionic acid, m.p. 138° - 142°C.

reactant | 2-(4'-fluoro-2-methoxy-4-biphenylyl)propionic acid | 10 g | FC1=CC=C(C=C1)C1=C(C=C(C=C1)C(C(=O)O)C)OC | C16H15FO3
reactant | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
solvent | hydrobromic acid | 270 ml | Br | BrH
product | 2-(4'-fluoro-2-hydroxy-4-biphenylyl)propionic acid | FC1=CC=C(C=C1)C1=C(C=C(C=C1)C(C(=O)O)C)O | C15H13FO3
